US08871767B2
N-(5-(6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide
To a stirred solution of 5-(6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylaniline (0.050 g, 0.206 mmol) in acetonitrile (5 mL) containing pyridine (0.618 mmol) is added trimethylacetylchloride (0.206 mmol). The mixture is stirred at room temperature for 4 hours, concentrated to dryness, then purified via chromatography (hexanes to EtOAc) to afford the title compound (0.060 g, 86%) as a white solid: Rf 0.57 (EtOAc); LCMS (m/z)=339.4 [M+H]+, tR=6.37 min. (10 min run)

reactant | 5-(6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylaniline | 0.206 mmol, 0.050 g | COC=1C=CC=2N(N1)C=C(N2)C=2C=CC(=C(N)C2)C | C14H14N4O
reactant | pyridine | 0.618 mmol | N1=CC=CC=C1 | C5H5N
reactant | trimethylacetylchloride | 0.206 mmol | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-(5-(6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide | 0.060 g, 86% | COC=1C=CC=2N(N1)C=C(N2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C | C19H22N4O2
